Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
nitroglycerin
 
Attending: ___.
 
Chief Complaint:
Olfactory groove meningioma 
 
Major Surgical or Invasive Procedure:
___ - Right craniotomy for olfactory groove dural based 
tumor resection. 

 
History of Present Illness:
Ms. ___ is a ___ y/o female known to the neurosurgery service 
for a recent admission at which time the meningioma was 
diagnosed. She returns to ___ on ___ for surgery for 
resection of the lesion. The risks and benefits of surgical 
intervention were discussed and the patient consented to the 
procedure. 
 
Past Medical History:
BREAST CYSTS 
ACNE 
ASTHMA 
GRAVES DISEASE 
MENORRHAGIA s/p ablation ___
MIGRAINE HEADACHES 
NEW ADDRESS 
S/P APPY 
S/P TUBAL LIGATION 
SCOLIOSIS 
URINARY FREQUENCY 
 
Social History:
___
Family History:
Mother SUDDEN DEATH 
Father MYOCARDIAL INFARCTION 
Brother MYOCARDIAL INFARCTION 
Aunt ___' DISEASE 
Sister BREAST CANCER, CERVICAL CANCER

 
Physical Exam:
PHYSICAL EXAMINATION ON DISCHARGE:
GCS 15
AOx3
anosmia
cranial nerves III-XII intact
LUE 4+/5, LLE ___
RUE ___, RLE ___
wound site c/d/I
mild R facial swelling expected post-op
 
Brief Hospital Course:
#Meningioma
The patient was taken to the operating room on the day of 
admission, ___ and underwent a Right craniotomy for 
meningioma resection. Intra-operatively, the patient experienced 
a seizure. Post-operatively, the patient was admitted to the 
neuro ICU for close monitoring. The patient remained in the 
neuro ICU throughout her entire hospitalization. She suffered no 
further seziures post-operatively. On POD#3, ___, the 
patient was evaluated by the Neurovascular team and it was 
determined she would be safe for discharge with Keppra and 
Decadron taper
 
Medications on Admission:
Acetaminophen 1000 mg PO Q8H, Dexamethasone 2 mg PO Q8H, 
Docusate Sodium 100 mg PO BID, Famotidine 20 mg PO Q12H, 
LevETIRAcetam 1000 mg PO BID, Lidocaine Viscous 2% 15 mL PO 
TID:PRN Mouth pain, Ondansetron 4 mg PO Q8H:PRN Nausea, 
OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN, Polyethylene 
Glycol 17 g PO DAILY:PRN Constipation, Senna 8.6 mg PO BID, 
Albuterol Inhaler ___ PUFF IH Q6H, Fluticasone Propionate, 
Fluticasone-Salmeterol Diskus (250/50)  1 INH IH DAILY, 
Ibuprofen 400 mg PO Q8H:PRN, Levothyroxine Sodium 137 mcg PO 
DAILY, Multivitamins 1 TAB PO DAILY, Vitamin D 1000 UNIT PO 
DAILY 
 
Discharge Medications:
1.  Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*32 
Tablet Refills:*0 
2.  LevETIRAcetam 1500 mg PO BID 
RX *levetiracetam 750 mg 2 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 7 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*14 Tablet Refills:*0 
4.  walker 1 device miscellaneous when ambulating 
Rolling walker, Dx:bifrontal meningioma, Px:good, ___ 
RX *walker   when OOB Disp #*1 Each Refills:*0 
5.  Acetaminophen 325-650 mg PO Q6H  
6.  Dexamethasone 4 mg PO DAILY Duration: 4 Doses 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
This is dose # 1 of 4 tapered doses
RX *dexamethasone 4 mg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0 
7.  Dexamethasone 3 mg PO DAILY Duration: 4 Doses 
Start: After 4 mg DAILY tapered dose 
This is dose # 2 of 4 tapered doses
RX *dexamethasone 1.5 mg 2 tablet(s) by mouth daily Disp #*8 
Tablet Refills:*0 
8.  Dexamethasone 2 mg PO DAILY Duration: 4 Doses 
Start: After 3 mg DAILY tapered dose 
This is dose # 3 of 4 tapered doses
RX *dexamethasone 2 mg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0 
9.  Dexamethasone 1 mg PO DAILY Duration: 4 Doses 
Start: After 2 mg DAILY tapered dose 
This is dose # 4 of 4 tapered doses
RX *dexamethasone 1 mg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0 
10.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours if 
needed for pain Disp #*60 Tablet Refills:*0 
11.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing, SOB   
12.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
13.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*20 Capsule Refills:*1 
14.  Fluticasone Propionate NASAL 1 SPRY NU BID  
15.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH DAILY  
16.  Levothyroxine Sodium 137 mcg PO DAILY  
17.  Senna 17.2 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Olfactory groove Meningioma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Rolling ___: 13 months

 
Discharge Instructions:
Discharge Instructions
Brain Tumor

Surgery
_x0095_*** You underwent surgery to remove a brain lesion from your 
brain. 
_x0095_You may shower at this time but keep your incision dry.
_x0095_It is best to keep your incision open to air but it is ok to 
cover it when outside. 
_x0095_Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
_x0095_We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
_x0095_You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
_x0095_No driving while taking any narcotic or sedating medication. 
_x0095_If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
_x0095_No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
_x0095_***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
_x0095_***You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
_x0095__x0095_You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
_x0095_You may experience headaches and incisional pain. 
_x0095_You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
_x0095_You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
_x0095_Feeling more tired or restlessness is also common.
_x0095_Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
_x0095_Severe pain, swelling, redness or drainage from the incision 
site. 
_x0095_Fever greater than 101.5 degrees Fahrenheit
_x0095_Nausea and/or vomiting
_x0095_Extreme sleepiness and not being able to stay awake
_x0095_Severe headaches not relieved by pain relievers
_x0095_Seizures
_x0095_Any new problems with your vision or ability to speak
_x0095_Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
_x0095_Sudden numbness or weakness in the face, arm, or leg
_x0095_Sudden confusion or trouble speaking or understanding
_x0095_Sudden trouble walking, dizziness, or loss of balance or 
coordination
_x0095_Sudden severe headaches with no known reason

AVOID DIRIVING WHILE ON KEPPRA OR OXYCODONE

Steroid taper per Dr. ___:
Decadron 4mg daily for 4 d
Decadron 3mg daily for 4 d
Decadron 2mg daily for 4 d
Decadron 1mg daily for 4 d

 
Followup Instructions:
___